US03935311
3-Benzyloxy-5-hydroxymethyl-2-methylpyridine (No. 23)
To a solution of 1.7 g. of 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride in 10 ml. of dimethylformamide was added a solution of 0.9 g. of 50% sodium hydride in 6 ml. of dimethylformamide. The mixture was stirred at room temperature for 3 hours and to the solution was added 1.25 g. of benzyl chloride and additional stirring was continued overnight at room temperature.

reactant | 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride | Cl.OCC=1C=C(C(=NC1)C)O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-5-hydroxymethyl-2-methylpyridine | C(C1=CC=CC=C1)OC=1C(=NC=C(C1)CO)C | C14H15NO2
